2171-04-23 07:23:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Pt alert., verbal , pleasantly confused. A/O x2. Spo2 above 95% on  2 L
   NC. Afebrile.
   At 2200hrs, pt dropped his BP to 90
s with MAP less than 60. Pt
   mental status remains unchanged. UOP around 50-100cc/hr.  given IVF
   bolus and continued to monitor.  no other events overnight.
   Allergies:
   Lipitor (Oral) (Atorvastatin Calcium)
   Lightheadedness
   Amoxicillin
   Unknown;
   Erythromycin Base
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Procainamide
   Hypotension;
   Zocor (Oral) (Simvastatin)
   myalgia;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2171-4-22**] 08:40 PM
   Heparin Sodium (Prophylaxis) - [**2171-4-22**] 08:40 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2171-4-23**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**73**] AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.3
C (97.4
   HR: 81 (63 - 98) bpm
   BP: 132/51(74) {86/31(46) - 132/79(83)} mmHg
   RR: 22 (14 - 23) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,307 mL
                                                                  1,000 mL
   PO:
                                                                    170 mL
             TF:
   IVF:
                                                                  1,137 mL
                                                                  1,000 mL
   Blood products:
   Total out:
                                                                  1,085 mL
                                                                    410 mL
   Urine:
                                                                  1,085 mL
                                                                    410 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    222 mL
                                                                    590 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///31/
   Physical Examination
   GENERAL: Pleasant, well appearing elderly man in NAD
   HEENT: Normocephalic, atraumatic. No conjunctival pallor. No scleral
   icterus. PERRLA/EOMI. Mucous membranes dry. OP clear. Neck Supple, No
   LAD, No thyromegaly.
   CARDIAC: Regular rhythm, normal rate. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 1011**]. JVP=flat
   LUNGS: CTAB, good air movement biaterally. No crackles, rhonchi or
   wheezes.
   ABDOMEN: mildly distended, NABS. Soft, NT, ND. No HSM
   EXTREMITIES: Large eschar on right posterior medial heel, with no
   surrounding erythema or fluctuance. No edema or calf pain, 2+ dorsalis
   pedis/ posterior tibial pulses.
   SKIN: No rashes/lesions, ecchymoses.
   NEURO: A&Ox3. Appropriate. CN 2-12 grossly intact. Preserved sensation
   throughout. 5/5 strength throughout. [**1-19**]+ reflexes, equal BL. Normal
   coordination. Gait assessment deferred
   PSYCH: Listens and responds to questions appropriately, pleasant
   Labs / Radiology
   194 K/uL
   7.9 g/dL
   102 mg/dL
   1.6 mg/dL
   31 mEq/L
   3.5 mEq/L
   31 mg/dL
   103 mEq/L
   141 mEq/L
   24.2 %
   5.3 K/uL
        [image002.jpg]
                             [**2171-4-23**]  03:55 AM
   WBC
   5.3
   Hct
   24.2
   Plt
   194
   Cr
   1.6
   Glucose
   102
   Other labs: Ca++:7.7 mg/dL, Mg++:1.8 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   87 yo male with history of CAD, A fib, dCHF (EF 55%), PAD
   .
   # Altered Mental Status:  Unclear etiology.  No evidence of infection,
   with out pneumonia on CXR, no fevers/chills, negative UA.  Drugs may
   play a role: levaquin is notorious, he also takes oxycodone, so
   influence of narcotics also may be at play.  Patient has mild ARF (up
   to 2.2, resolved by day after admission), so may also be a component
   (increasing toxicity of neurontin). Patient is reaching for objects
   that are not there and he may be having myoclonic jerks. history of
   fall, so will hold on NCHCT.
   - hold levofloxacin
   - hold narcotics if possible
   - IVF
   - f/u blood and urine culture
   .
   #. [**Year (4 digits) **]:  Unclear etiology.  Likely chronic, given elevated HCO3. No
   clinical evidence of pneumonia.  CXR w/o consolidation, no symptoms of
   cough or fevers, and no leukocytosis; but is also vaguely suggestive of
   a primary pleural process (pleural plaques), possibly mesothelioma.
   Patient does have a history of dCHF, but no pulmonary edema on CXR,
   flat JVP, and dry MM.  PE unlikely in the absence of tachycardia, EKG
   changes.
   - ABG for AA gradient
   - wean O2 as tolerated
   - consider chest CT to better characterize
   .
   #. Transient Hypotension: Resolved. The patient had one episode of
   hypotension in the ED with systolic pressures of 80. The patient
   received only 2L NS with resolution of the hypotension. Given his mild
   acute renal failure, likely this is related to hypovolemia. Dry mucous
   membranes on exam.  No clinical evidence of pneumonia by symptoms, CXR,
   or [**Last Name (LF) 14444**], [**First Name3 (LF) **] low suspicion of septic etiology
   - Monitor BP closely, goal MAP > 60
   - Volume resuscitation PRN with IV NS boluses
   .
   #. Acute on chronic renal failure: Likely prerenal given volume
   depletion and hypotension.  Will check urine lytes if does not improve
   w/ IVF.
   - Volume resuscitation
   - Avoid nephrotoxins
   #. PAD: Recent stent placement to SFA on right to treat non-healing
   ulcer. Still with slowly healing ulcer, and recent follow up w/
   vascular surgery.
   - wound c/s in AM
   - cont ASA/plavix
   - pt w/ lipitor allergy.
   #. CAD: No acute process, trop mildly elevated likely secondary to
   acute on chronic renal failure. Will continue aspirin and plavix as
   above. The patient has a history of bradycardia, which is likely why he
   is not maintained on a beta blocker.  No ACS on EKG.
   #. Diastolic CHF: Preserved EF on recent echo in [**11-26**]. It appears the
   patient's ACE-I has been held since [**Month (only) **] because of falls and low
   blood pressures. Will hold lasix in the setting of acute renal failure.
   Monitor for signs of volume overload.
   # Atrial Fibrillation: Currently in sinus rhythm. Not on rate control
   secondary to bradycardia, not on coumadin secondary to falls.
   #. History of prostate cancer/bladder cancer/uretheral stricture.
   Patient w/ indwelling foley.
   #. Spinal Stenosis: Continue gabapentin. hold oxycodone.
   #. Depression: Continue citalopram
   FEN: NPO until speech and swallow, replete PRN
   PPX:
   -DVT ppx with heparin sc tid
   -Bowel regimen colace, senna, bisacodyl, home pantoprazole
   -Pain management with tylenol
   ACCESS: PIV's
   CODE STATUS: Full code confirmed
   EMERGENCY CONTACT: [**Name (NI) 6161**] [**Name (NI) 5196**] HCP [**Telephone/Fax (1) 12044**], [**Telephone/Fax (1) 12045**], [**First Name8 (NamePattern2) 7519**]
   [**Known lastname 5196**] [**Telephone/Fax (1) 12046**]
   DISPOSITION: Call out
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2171-4-22**] 08:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   Critical care addendum
   I saw and examined the patient and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   resident note, including the assessment and plan. I would emphasize and
   add the following points:  87M prostate ca, (radiation/lupron),
   indwelling foley, cad, a-fib (coumadin), admitted through ED for
   altered MS, abnl arm movements, and [**Year (4 digits) **] with concern of PNA. Was
   transiently hypotensive overnight, responded to IVF. UOP maintained.
   AF    89  114/50  16  92% RA  +200cc/+600cc
   NAD, alert but confused
   b/l rales, prolonged expiration
   RR, no m
   Soft, NT, + BS
   Extrem - ulcer dressed on R foot, trace edema
   Labs: cr 1.6 (back to bl), bicarb 31, wbc 5.3, hct 24, ua neg for
   infection
   Admit cxr reviewed
   87 yo adm with altered MS [**First Name (Titles) **] [**Last Name (Titles) **]. His CXR suggests underlying lung
   dis with extensive pleural involvement, ? prior asbestosis and
   chemistry suggests chronic CO2 retention.  His oxygentation is
   improving. Unclear if there is a frank infiltrate and he remain AF w/o
   leukocytosis. Will repeat a cxr now that he has been hydrated.  Will
   check abg  for Co2 and A-a gradient.  A chest CT will be helpful to
   better evaluate pleura and lung parenchyma, when he can tolerate lying
   flat. Our suspicion for PE is quite low, though pt does have RFs
   including malignancy and being sedentary.  Would obtain LENIS to ro
   DVT. In terms of his AMS, this is most likely toxic metabolic with
   waxing and [**Doctor Last Name 533**] pattern, improving.  Likely multifactorial from med
   effect, with neurontin, narcotics and levoflox in setting of acute on
   CKD.  Will hold antbx at this time, and continue to monitor neuro
   exam. Would send delirium labs including tsh, rpr, b12 and folate.
   Appears dry on exam, will follow maps and UOP.
   Remainder of plan as outlined in resident note. Family updated at
   bedside.
   Stable for transfer to floor.
   Total time: 50 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 215**] [**Last Name (NamePattern1) 216**], MD
   on:[**2171-4-23**] 05:32 PM ------

2171-04-24 07:43:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - ABG -> 7.47/44/81/33
   - LENIS: wet : No evidence of deep venous thrombosis in the lower
   extremities bilaterally.
   - CXR - rotated - this patient needs a non-con CT chest
   - TSH 1.8, Liver Enzymes wnl and Albulmin 2.9
   - ED Urine Cx > [**Numeric Identifier 1106**], GNR (h/o Pseudomonas, e.coli)
   Allergies:
   Lipitor (Oral) (Atorvastatin Calcium)
   Lightheadedness
   Amoxicillin
   Unknown;
   Erythromycin Base
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Procainamide
   Hypotension;
   Zocor (Oral) (Simvastatin)
   myalgia;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2171-4-24**] 06:04 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2171-4-24**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**73**] AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.6
C (97.9
   HR: 71 (62 - 98) bpm
   BP: 122/51(68) {100/40(56) - 135/76(88)} mmHg
   RR: 19 (15 - 26) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,710 mL
                                                                     12 mL
   PO:
                                                                    500 mL
             TF:
   IVF:
                                                                  1,210 mL
                                                                     12 mL
   Blood products:
   Total out:
                                                                  1,555 mL
                                                                    910 mL
   Urine:
                                                                  1,555 mL
                                                                    910 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    155 mL
                                                                   -898 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: 7.47/44/81.[**Numeric Identifier 218**]/28/7
   Physical Examination
   NAD, alert but confused
   b/l rales, prolonged expiration
   RR, no m
   Soft, NT, + BS
   Extrem - ulcer dressed on R foot, trace edema
   Labs / Radiology
   228 K/uL
   9.0 g/dL
   95 mg/dL
   1.4 mg/dL
   28 mEq/L
   3.9 mEq/L
   23 mg/dL
   104 mEq/L
   141 mEq/L
   28.3 %
   4.8 K/uL
        [image002.jpg]
                             [**2171-4-23**]  03:55 AM
                             [**2171-4-23**]  12:57 PM
                             [**2171-4-23**]  02:50 PM
                             [**2171-4-23**]  04:59 PM
                             [**2171-4-24**]  05:31 AM
   WBC
   5.3
   4.8
   Hct
   24.2
   28.3
   Plt
   194
   228
   Cr
   1.6
   1.4
   TCO2
   34
   32
   33
   Glucose
   102
   95
   Other labs: ALT / AST:[**7-7**], Alk Phos / T Bili:/0.1, Albumin:2.9 g/dL,
   Ca++:8.3 mg/dL, Mg++:2.2 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   87 yo male with history of CAD, A fib, dCHF (EF 55%), PAD
   .
   # Altered Mental Status:  Unclear etiology.  No evidence of infection,
   with out pneumonia on CXR, no fevers/chills, negative UA.  Drugs may
   play a role: levaquin is notorious, he also takes oxycodone, so
   influence of narcotics also may be at play.  Patient has mild ARF (up
   to 2.2, resolved by day after admission), so may also be a component
   (increasing toxicity of neurontin). Patient is reaching for objects
   that are not there and he may be having myoclonic jerks. history of
   fall, so will hold on NCHCT.
   - hold levofloxacin
   - hold narcotics if possible
   - IVF
   - f/u BCx
   .
   # positive urine culture:  Patient with indwelling Foley in place.
   Likely represents colonization, as there are no signs of infection
   currently.  If patient was to develop signs of infection, would
   consider replacing urinary catheter and treatment of infection.
   .
   #. Hypoxia:  Unclear etiology.  Likely chronic, given elevated HCO3. No
   clinical evidence of pneumonia.  CXR w/o consolidation, no symptoms of
   cough or fevers, and no leukocytosis; but is also vaguely suggestive of
   a primary pleural process (pleural plaques), possibly mesothelioma.
   Patient does have a history of dCHF, but no pulmonary edema on CXR,
   flat JVP, and dry MM.  PE unlikely in the absence of tachycardia, EKG
   changes.
   - ABG for AA gradient
   - wean O2 as tolerated
   - consider chest CT to better characterize
   - f/u final read of LENIs
   .
   #. Transient Hypotension: Resolved. The patient had one episode of
   hypotension in the ED with systolic pressures of 80. The patient
   received only 2L NS with resolution of the hypotension. Given his mild
   acute renal failure, likely this is related to hypovolemia. Dry mucous
   membranes on exam.  No clinical evidence of pneumonia by symptoms, CXR,
   or [**Last Name (LF) 14444**], [**First Name3 (LF) **] low suspicion of septic etiology
   - Monitor BP closely, goal MAP > 60
   - Volume resuscitation PRN with IV NS boluses
   .
   #. Acute on chronic renal failure: Likely prerenal given volume
   depletion and hypotension.  Appears to have improved s/p fluids.
   - fluids PRN
   - Avoid nephrotoxins
   #. PAD: Recent stent placement to SFA on right to treat non-healing
   ulcer. Still with slowly healing ulcer, and recent follow up w/
   vascular surgery.
   - cont ASA/plavix
   - pt w/ lipitor allergy.
   #. CAD: No acute process, trop mildly elevated likely secondary to
   acute on chronic renal failure. Will continue aspirin and plavix as
   above. The patient has a history of bradycardia, which is likely why he
   is not maintained on a beta blocker.  No ACS on EKG.
   #. Diastolic CHF: Preserved EF on recent echo in [**11-26**]. It appears the
   patient's ACE-I has been held since [**Month (only) **] because of falls and low
   blood pressures. Will hold lasix in the setting of acute renal failure.
   Monitor for signs of volume overload.
   # Atrial Fibrillation: Currently in sinus rhythm. Not on rate control
   secondary to bradycardia, not on coumadin secondary to falls.
   #. History of prostate cancer/bladder cancer/uretheral stricture.
   Patient w/ indwelling foley.
   #. Spinal Stenosis: Continue gabapentin. hold oxycodone.
   #. Depression: Continue citalopram
   FEN: start with nectar thicken food, replete PRN
   PPX:
   -DVT ppx with heparin sc tid
   -Bowel regimen colace, senna, bisacodyl, home pantoprazole
   -Pain management with tylenol
   ACCESS: PIV's
   CODE STATUS: Full code per son (need to confirm with PT when MS
   improves)
   EMERGENCY CONTACT: [**Name (NI) 6161**] [**Name (NI) 5196**] HCP [**Telephone/Fax (1) 12044**], [**Telephone/Fax (1) 12045**], [**First Name8 (NamePattern2) 7519**]
   [**Known lastname 5196**] [**Telephone/Fax (1) 12046**]
   DISPOSITION: Call out vs. discharge directly to NH
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2171-4-22**] 08:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2171-04-24 09:43:00 Physician Attending Progress Note
Chief Complaint: Hypoxia, confusion
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Oriented and appropriate
   24 Hour Events:
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Lipitor (Oral) (Atorvastatin Calcium)
   Lightheadedness
   Amoxicillin
   Unknown;
   Erythromycin Base
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Procainamide
   Hypotension;
   Zocor (Oral) (Simvastatin)
   myalgia;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2171-4-24**] 06:04 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash, Ulcer foot
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2171-4-24**] 09:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**73**] AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.1
C (97
   HR: 101 (62 - 101) bpm
   BP: 131/91(97) {100/40(56) - 135/91(97)} mmHg
   RR: 22 (15 - 26) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  1,710 mL
                                                                    362 mL
   PO:
                                                                    500 mL
                                                                    350 mL
   TF:
   IVF:
                                                                  1,210 mL
                                                                     12 mL
   Blood products:
   Total out:
                                                                  1,555 mL
                                                                  1,150 mL
   Urine:
                                                                  1,555 mL
                                                                  1,150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    155 mL
                                                                   -788 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: 7.47/44/81.[**Numeric Identifier 218**]/28/7
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic), 2/6 SEM
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice, ulcer on foot
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   9.0 g/dL
   228 K/uL
   95 mg/dL
   1.4 mg/dL
   28 mEq/L
   3.9 mEq/L
   23 mg/dL
   104 mEq/L
   141 mEq/L
   28.3 %
   4.8 K/uL
        [image002.jpg]
                             [**2171-4-23**]  03:55 AM
                             [**2171-4-23**]  12:57 PM
                             [**2171-4-23**]  02:50 PM
                             [**2171-4-23**]  04:59 PM
                             [**2171-4-24**]  05:31 AM
   WBC
   5.3
   4.8
   Hct
   24.2
   28.3
   Plt
   194
   228
   Cr
   1.6
   1.4
   TCO2
   34
   32
   33
   Glucose
   102
   95
   Other labs: ALT / AST:[**7-7**], Alk Phos / T Bili:/0.1, Albumin:2.9 g/dL,
   Ca++:8.3 mg/dL, Mg++:2.2 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPOTENSION (NOT SHOCK)
 HYPOXEMIA
 HEART FAILURE (CHF), DIASTOLIC, CHRONIC
 ATRIAL FIBRILLATION (AFIB)
 CANCER (MALIGNANT NEOPLASM), PROSTATE
 .H/O DEPRESSION
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   Do not believe he had a PNA. Seems more likely he became somewhat
   dehydrated, incr creat and poorly metabolized opiates and
   levofloxacin.  MS has now cleared and he is completely oriented. Urine
   is colonized but no actiive infection.  Oxygenation is at baseline
   ICU Care
   Nutrition:
   Comments: Thickened
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2171-4-22**] 08:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition :Transfer to other facility
   Total time spent: 35 minutes